US05082467
(1) Preparation of 2-hydroxy-3-(3,5-dinitro-2-pyridyloxy)-propanol
3.3 g of sodium hydride (60% in oil, 82.5 mmol) which had been washed with hexane was dispersed in 150 ml of toluene under a nitrogen atmosphere, and to this suspension was dropwise added 7.5 g of glycerol while stirring with a mechanical stirrer to precipitate sodium alcholate. After completion of the addition, the stirring was continued for 30 minutes, followed by decantation to remove toluene and an addition of 150 ml of glycerol to the residue. After stirring for 15 minutes, 15 g of 2-chloro-3,5-dinitropyridine (73.7 mmol) was added by portions under ice-cooling. The mixture was stirred for 1 hour under ice-cooling and for a further 1 hour at room temperature, followed by an addition of 35 ml of saturated aqueous solution of ammonium chloride and extraction with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was removed by evaporation and the residue was purified over silica gel column chromatography (Silica gel 60 manufactured by Merk Co.; eluent: ethyl acetate:hexane=1:1-2:1) to obtain 19 g (73.2 mmol) of the title compound in the form of a yellow solid (yield: 99%). The compound can be further purified by a mixed solvent of ethanol-ether-hexane.

reactant | sodium hydride | 82.5 mmol, 3.3 g | [H-].[Na+]
reactant | glycerol | 7.5 g | OCC(O)CO | C3H8O3
reactant | 2-chloro-3,5-dinitropyridine | 73.7 mmol, 15 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-3-(3,5-dinitro-2-pyridyloxy)-propanol | 73.2 mmol, 19 g | OC(CO)COC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H9N3O7
